US05707987
(2S,4R)-N-t-Butoxycarbonyl-4-t-butyldimethylsiloxy-2-(α-hydroxy-3,5-dibromobenzyl)pyrrolidine (19.6 g, yield: 56.9%) was prepared as a yellow oily substance, from (2S,4R)-N-t-butoxycarbonyl-4-(t-butyldimethylsiloxy)prolinal (20 g, 60.8 mmol), 1,3,5-tribromobenzene (19.13 g, 60.8 mmol) and 1.6M n-butyl lithium-hexane solution (49.4 ml, 79.04 mmol), in the same manner as in Reference Example 111-1.

reactant | (2S,4R)-N-t-butoxycarbonyl-4-(t-butyldimethylsiloxy)prolinal | 60.8 mmol, 20 g | C(C)(C)(C)OC(=O)N1[C@H](C=O)C[C@H](C1)O[Si](C)(C)C(C)(C)C | C16H31NO4Si
reactant | 1,3,5-tribromobenzene | 60.8 mmol, 19.13 g | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
product | (2S,4R)-N-t-Butoxycarbonyl-4-t-butyldimethylsiloxy-2-(α-hydroxy-3,5-dibromobenzyl)pyrrolidine | 19.6 g, yield: 56.9% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(C1=CC(=CC(=C1)Br)Br)O | C22H35Br2NO4Si
